US08071807B2
Step 1: [4-Methoxy-3-(4-nitro-2-phenylsulfanylmethyl-phenoxy)-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 10, Step 4, using the following starting materials: [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and thiophenol.

reactant | [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CBr)=O | C18H18BrNO6
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | [4-Methoxy-3-(4-nitro-2-phenylsulfanylmethyl-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC1=CC=CC=C1)=O | C24H23NO6S
